US07060827B2
In a manner similar to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-6-ethoxycarbonyl-5-nitropyrimidine and 3-aminophenol were reacted to yield N2,N4-bis(3-hydroxyphenyl)-6-ethoxycarbonyl-5-nitro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.56 (bs, 1H), 10.32 (bs, 1H), 9.54 (s, 1H), 9.32 (bs, 1H), 7.22–7.15 (m, 2H), 7.02–6.96 (m, 1H), 6.93–6.82 (m, 2H), 6.81–6.74 (m, 1H), 6.67 (d, 1H, J=9.3 Hz), 6.43 (d, 1H, J=8.1 Hz), 4.35 (q, 2H, J=6.9 Hz), 1.30 (t, 3H, J=6.9 Hz); LCMS: ret. time: 26.01 min.; purity: 96%; MS (m/e): 412 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 2,4-dichloro-6-ethoxycarbonyl-5-nitropyrimidine | ClC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])C(=O)OCC | C7H5Cl2N3O4
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | N2,N4-bis(3-hydroxyphenyl)-6-ethoxycarbonyl-5-nitro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC(=C(C(=N1)NC1=CC(=CC=C1)O)[N+](=O)[O-])C(=O)OCC | C19H17N5O6
